US06992083B2
To a stirred solution of 100 mg (0.42 mmol) (7-amino-4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester in 15 ml dioxane and 5 ml ethylene glycol was added 15 ml of a 5 N aq. sodium hydroxide solution and the mixture was heated at 100° C. for 4 h. After cooling to room temperature the mixture was poured onto water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated in vacuo. Flash chromatography (5/95 methanol/dichloromethane, then 10/89/1 methanol/dichloromethane/triethylamine) followed by trituration in ether afforded 15 mg (20%) 4-methoxy-benzooxazole-2,7-diamine as a brown solid. ES-MS m/e (%): 180 (M+H+, 100).

reactant | (7-amino-4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester | 0.42 mmol, 100 mg | COC(NC=1OC2=C(N1)C(=CC=C2N)OC)=O | C10H11N3O4
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | 4-methoxy-benzooxazole-2,7-diamine | 15 mg, 20% | COC1=CC=C(C2=C1N=C(O2)N)N | C8H9N3O2
